US09062044B2
Intermediate 48: 4-Methoxy-2-(2H-1,2,3-triazol-2-yl)benzoic acid
To 2-bromo-4-methoxybenzoic acid (4 g, 17.3 mmol), CuI (266 mg, 1.4 mmol) and Cs2CO3 (11.2 g, 34.6 mmol) was added dioxane (36 mL), water (94 μL, 5.1 mmol), 2H-1,2,3-triazole (2.0 mL, 34.6 mmol) and (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine (683 μL, 4.3 mmol). The reaction mixture was heated to 100° C. for 3 hr. The reaction mixture was cooled rt, then EtOAc and water were added. The mixture was transferred to a separatory funnel and the aqueous layer separated. The aqueous layer was acidified with conc. HCl to pH˜2 and extracted with EtOAc (2×). The organic layers were washed with brine and dried (Na2SO4) to give a yellow solid. This material was slurried with EtOAc (˜20 mL) and the solids filtered (>95% 4-methoxy-2-(1H-1,2,3-triazol-1-yl)benzoic acid by HPLC). Purification (FCC) (50% DCM to 100% DCM containing 10% (5% formic acid/MeOH)) gave the title compound (2.6 g) as a yellow solid. 1H NMR (CDCl3): 7.99-7.90 (m, 1H), 7.83 (s, 2H), 7.20 (d, J=2.5 Hz, 1H), 7.03 (dd, J=8.8, 2.6 Hz, 1H), 3.89 (s, J=17.6 Hz, 3H).

reactant | 2-bromo-4-methoxybenzoic acid | 17.3 mmol, 4 g | BrC1=C(C(=O)O)C=CC(=C1)OC | C8H7BrO3
reactant | Cs2CO3 | 34.6 mmol, 11.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2H-1,2,3-triazole | 34.6 mmol, 2.0 mL | N=1NN=CC1 | C2H3N3
reactant | (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine | 4.3 mmol, 683 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 1.4 mmol, 266 mg | [Cu]I
solvent | EtOAc | ˜20 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | water | 5.1 mmol, 94 μL | O | H2O
product | 4-Methoxy-2-(2H-1,2,3-triazol-2-yl)benzoic acid | 2.6 g | COC1=CC(=C(C(=O)O)C=C1)N1N=CC=N1 | C10H9N3O3
